US08110585B2
3-(2-methyl-2H-indazol-4-yl)prop-2-yn-1-ol
Under argon gas atmosphere, a mixture of 4-bromo-2-methyl-2H-indazole (1.00 g, 4.74 mmol), propargyl alcohol (1.10 mL, 18.9 mmol) and bis(triphenylphosphine)palladium(II) dichloride (665 mg, 0.947 mmol) in triethylamine (47 mL) was stirred at 70° C. for 14 hr, and concentrated under reduced pressure. The residue was dissolved in ethyl acetate, and insoluble material was filtered off. The filtrate was washed with water and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane=70/30→100/0) and the obtained crudely purified product was washed with ethyl acetate to give the title compound (403 mg, yield 46%).

reactant | 4-bromo-2-methyl-2H-indazole | 4.74 mmol, 1.00 g | BrC=1C2=CN(N=C2C=CC1)C | C8H7BrN2
reactant | propargyl alcohol | 18.9 mmol, 1.10 mL | C(C#C)O | C3H4O
solvent | triethylamine | 47 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.947 mmol, 665 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(2-methyl-2H-indazol-4-yl)prop-2-yn-1-ol | 403 mg, yield 46% | CN1N=C2C=CC=C(C2=C1)C#CCO | C11H10N2O
